US04270948
Preparation of Ethyl α-[4-(4-Trifluoromethylphenoxy)phenoxy]-propionate
A solution of 73.5 g of 4-(4-trifluoromethylphenoxy)phenol and 49.2 g of ethyl α-chloropropionate and 100 g of potassium carbonate were added to 100 ml of methyl ethyl ketone, and the mixture was heated. With stirring, the reaction was performed for 10 hours at the reflux temperature (80° to 85° C.). Inorganic salts were separated from the reaction product by filtration. The filtrate was evaporated and dried. The resulting ester was extracted with chloroform, and washed with water. The chloroform was distilled off to afford 55 g of the final product (yield: 54%). The final product had a boiling point of 176° to 185° C./3 mmHg.

reactant | 4-(4-trifluoromethylphenoxy)phenol | 73.5 g | FC(C1=CC=C(OC2=CC=C(C=C2)O)C=C1)(F)F | C13H9F3O2
reactant | ethyl α-chloropropionate | 49.2 g | ClC(C(=O)OCC)C | C5H9ClO2
reactant | potassium carbonate | 100 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 100 ml | C(C)C(=O)C | C4H8O
product | Ethyl α-[4-(4-Trifluoromethylphenoxy)phenoxy]-propionate | 55 g, yield: 54% | FC(C1=CC=C(OC2=CC=C(OC(C(=O)OCC)C)C=C2)C=C1)(F)F | C18H17F3O4
